US04963543
To a solution of sodium borohydride (0.78 g) in tetrahydrofuran (25 ml) was added dropwise boron trifluoride dimethyl etherate (8.78 ml) with stirring under ice-cooling and the solution was stirred at the same temperature for 10 minutes. To this solution was added (2S, 4R)-2-(carbamoylmethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.53 g) and the mixture was stirred at ambient temperature for 4 hours. To the reaction mixture was added methanol (5 ml) and the mixture was filtered. The filtrate was evaporated in vacuo to give a residue. The residue was dissolved in methanol (30 ml). To the solution was added 10% hydrogen chloride-methanol solution (10 ml) and the mixture was allowed to stand overnight at ambient temperature. The reaction mixture was evaporated in vacuo to give a residue. The residue was dissolved in a mixture of tetrahydrofuran (30 ml) and water (15 ml). To the solution was added a solution of potassium cyanate (3.83 g) in water (10 ml) and the mixture was stirred at 50°-60° C. for 30 minutes. The reaction mixture was evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (9:1, v/v). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S, 4R)-2-(2-ureidoethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.73 g).

reactant | sodium borohydride | 0.78 g | [BH4-].[Na+]
reactant | boron trifluoride dimethyl etherate | 8.78 ml | [B-]([O+](C)C)(F)(F)F | C2H6BF3O
reactant | (2S, 4R)-2-(carbamoylmethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.53 g | C(N)(=O)CSC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O6S
reactant | hydrogen chloride methanol | 10 ml | Cl.CO
reactant | potassium cyanate | 3.83 g | [O-]C#N.[K+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | (2S, 4R)-2-(2-ureidoethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.73 g | N(C(=O)N)CCSC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H22N4O6S
